US07595316B2
Production of 2-(1-cyclopentylpiperidin-4-yloxy)-5-(piperidin-2-on-1-yl)pyrimidine
According to the same method as in Example 17 but using 2-(1-cyclopentylpiperidin-4-yloxy)-5-bromopyrimidine and piperidin-2-one, the entitled compound was obtained.

reactant | 2-(1-cyclopentylpiperidin-4-yloxy)-5-bromopyrimidine | C1(CCCC1)N1CCC(CC1)OC1=NC=C(C=N1)Br | C14H20BrN3O
reactant | piperidin-2-one | N1C(CCCC1)=O | C5H9NO
product | 2-(1-cyclopentylpiperidin-4-yloxy)-5-(piperidin-2-on-1-yl)pyrimidine | C1(CCCC1)N1CCC(CC1)OC1=NC=C(C=N1)N1C(CCCC1)=O | C19H28N4O2
